US08686024B2
(2) Synthesis of 3-(di-n-propylaminocarbonylmethyl)-5-methoxy-1-methylindole
To a solution of 3-(di-n-propylaminocarbonylmethyl)-5-methoxyindole (180 mg, 0.62 mmol) in 1.8 mL of N,N-dimethylformamide was added sodium hydride (55%, 40 mg, 0.93 mmol) at 0° C. After the reaction mixture was stirred at the same temperature for 30 min, methyl iodide (0.10 mL, 1.2 mmol) was added with additional stirring at room temperature for 12 h. After the reaction mixture was diluted with diethyl ether, and washed with water and brine, and dried over MgSO4. After filtration, the filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=95/5 to 80/20) to obtain the title compound (126 mg, 67%).

reactant | 3-(di-n-propylaminocarbonylmethyl)-5-methoxyindole | 0.62 mmol, 180 mg | C(CC)N(C(=O)CC1=CNC2=CC=C(C=C12)OC)CCC | C17H24N2O2
reactant | sodium hydride | 0.93 mmol, 40 mg | [H-].[Na+]
reactant | methyl iodide | 1.2 mmol, 0.10 mL | CI | CH3I
solvent | N,N-dimethylformamide | 1.8 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(di-n-propylaminocarbonylmethyl)-5-methoxy-1-methylindole | 126 mg, 67% | C(CC)N(C(=O)CC1=CN(C2=CC=C(C=C12)OC)C)CCC | C18H26N2O2
